US07776857B2
4-(4-Chlorophenyl)-N-(4-(6,7-dimethoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (40 mg, 72 μmol) was added to a pyrex reaction tube along with 2 mL of 1:1 HBr:AcOH. The tube was sealed and the mixture was heated at 85° C. for 1.5 h. Upon cooling the mixture was diluted with water and brought to basic pH by dropwise addition of 6N NaOH. The solids were filtered, washed with water, and dried. The crude material was purified by silica gel chromatography, 10-50% 90/10/1 DCM/MeOH/NH4OH in DCM to provide 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenylthio)-3-methoxy-1,5-naphthyridin-2(1H)-one as a light yellow solid. MS: [M+H]=539.

reactant | 4-(4-Chlorophenyl)-N-(4-(6,7-dimethoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 72 μmol, 40 mg | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=C(N=C12)OC)OC | C30H22ClN5O2S
reactant | HBr | 2 mL | Br | BrH
reactant | AcOH | CC(=O)O | C2H4O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | water | O | H2O
product | 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenylthio)-3-methoxy-1,5-naphthyridin-2(1H)-one | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC=1C=CN=C2C=C(C(NC12)=O)OC | C29H20ClN5O2S
